US04772600
N,N-Dimethyl-2-[(3-nitro-4-pyridinyl)amino]acetamide
Condensed dimethylamine (20 ml) was added in portions to a solution of crude N-(3-nitro-4-pyridinyl)glycine ethyl ester (4.0 g, 0.018 mole) in absolute ethanol (10 ml). The reaction was allowed to stir at ambient temperature over the weekend. The mixture was diluted with petroleum ether and the solid was collected by filtration. The solid 3-g was dissolved in tetrahydrofuran, filtered and diluted with isopropyl ether to produce a dark amorphous solid which was filtered off. The filtrate was further diluted with petroleum ether and placed in the freezer to produce a dark organge crystalline solid. The solid (2.5 g) was dissolved in methylene chloride, treated with Florisil.COPYRGT., and the filtrate was evaporated to a yellow solid, which was dried under high vacuum at 70° C. to give 1.8 g (45%), mp 142°-143° C.

reactant | dimethylamine | 20 ml | CNC | C2H7N
reactant | N-(3-nitro-4-pyridinyl)glycine ethyl ester | 0.018 mole, 4.0 g | C(C)OC(CNC1=C(C=NC=C1)[N+](=O)[O-])=O | C9H11N3O4
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-Dimethyl-2-[(3-nitro-4-pyridinyl)amino]acetamide | CN(C(CNC1=C(C=NC=C1)[N+](=O)[O-])=O)C | C9H12N4O3
